US04766125
A mixture of 8.2 parts of 2-chloro-N-(2,6-dimethylphenyl)acetamide, 7.2 parts of hexahydro-3,3-dimethyl-2-(1-methylethyl)imidazo[1,5-a]pyrazin-1(5H)-one, 7 parts of N,N-diethylethanamine and 54 parts of N,N-dimethylformamide was stirred and heated for 3 hours at 75° C. After cooling to 0° C., the precipitate was filtered off and the filtrate was evaporated. The residue was dissolved in 300 parts of trichloromethane. This solution was washed with 50 parts of water, dried, filtered and evaporated. The residue was triturated in 2,2'-oxybispropane. After cooling to 0° C., the product was filtered off and dried, yielding 9.2 parts (72.7%) of N-(2,6-dimethylphenyl)hexahydro-3,3-dimethyl-2-(1-methylethyl)-1-oxoimidazo[1,5-a]pyrazine-7(8H)-acetamide; mp. 155° C. (intermediate 101).

reactant | 2-chloro-N-(2,6-dimethylphenyl)acetamide | ClCC(=O)NC1=C(C=CC=C1C)C | C10H12ClNO
reactant | hexahydro-3,3-dimethyl-2-(1-methylethyl)imidazo[1,5-a]pyrazin-1(5H)-one | CC1(N(C(C2N1CCNC2)=O)C(C)C)C | C11H21N3O
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2,6-dimethylphenyl)hexahydro-3,3-dimethyl-2-(1-methylethyl)-1-oxoimidazo[1,5-a]pyrazine-7(8H)-acetamide | 72.7% | CC1=C(C(=CC=C1)C)NC(CN1CC2N(CC1)C(N(C2=O)C(C)C)(C)C)=O | C21H32N4O2
